US08067408B2
The 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-5-methylbenzoic acid (0.931 g, 2 mmol) was partially dissolved in the dichloromethane (50 mL), and HBTU (0.758 g, 2.000 mmol) was added followed sequentially by [(3-bromo-4-methylphenyl)methyl]amine (0.400 g, 2.000 mmol), and TEA (0.558 mL, 4.00 mmol). The mixture was allowed to stir under argon overnight at room temperature. The solvent was removed on a rotavap and the residue was taken up in EtOAc (100 mL) and washed 3× with water (50 mL) (emulsion formed, a few drops of 1N NaOH helps break emulsion), 1× with brine, dried over anhydrous Na2SO4, filtered and evaporated to give the crude residue. The residue was taken up in methylene chloride and absorbed on Isolute® Sorbent and purified by Combiflash using an 80 g silica column eluted with 0-10% DCM/MeOH. The product fractions were combined and concentrated to give N-[(3-bromo-4-methylphenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-5-methyl-1,3-benzenedicarboxamide (1.073 g, 1.635 mmol, 82% yield) as a white solid. LC-MS m/z 647.4 (M+H)+, 0.98 min (ret time); mp 117-119° C.

reactant | 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-5-methylbenzoic acid | 2 mmol, 0.931 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)O)C=C(C2)C)CC | C25H31N5O4
reactant | HBTU | 2.000 mmol, 0.758 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | [(3-bromo-4-methylphenyl)methyl]amine | 2.000 mmol, 0.400 g | BrC=1C=C(C=CC1C)CN | C8H10BrN
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[(3-bromo-4-methylphenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-5-methyl-1,3-benzenedicarboxamide | 1.635 mmol, 1.073 g, 82% yield | BrC=1C=C(C=CC1C)CNC(=O)C1=CC(=CC(=C1)C)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C33H39BrN6O3
